US05098919
Methyl 4-Methyl-2-thioxopyrrolidine-3-carboxylate
To 4.5 g of ethyl 4-methyl-2-thioxopyrrolidine-3-carboxylate, were added 200 ml of methyl propionate and 7.0 ml of titanium tetraisopropoxide. The resulting mixture was heated under reflux for 3 days. After distilling off the excessive methyl propionate under reduced pressure, water and chloroform were added to the residue and insoluble matters were filtered off. The chloroform layer was washed with water and a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After distilling off the chloroform, ethyl ether was added to the residue to thereby crystallize the same. Thus 2.2 g of the title compound was obtained.

reactant | ethyl 4-methyl-2-thioxopyrrolidine-3-carboxylate | 4.5 g | CC1C(C(NC1)=S)C(=O)OCC | C8H13NO2S
catalyst | titanium tetraisopropoxide | 7.0 ml | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | methyl propionate | 200 ml | C(CC)(=O)OC | C4H8O2
product | Methyl 4-Methyl-2-thioxopyrrolidine-3-carboxylate | 2.2 g | CC1C(C(NC1)=S)C(=O)OC | C7H11NO2S
